US07943551B2
Step 6: Synthesis of 4-chloro-3-cyclopropylmethylthio-2-methylbenzoic acid
3 ml of 20% strength aqueous sodium hydroxide solution were added to 1.20 g (4.43 mmol) of methyl 4-chloro-3-cyclopropylmethylthio-2-methylbenzoate in 30 ml of methanol, and the mixture was stirred at RT for 16 h. For work-up, the mixture was concentrated on a rotary evaporator, and the residue was taken up in water. The mixture was acidified with 1M HCl, and the product was then filtered off as a solid. This gave 1.1 g of pure product.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl 4-chloro-3-cyclopropylmethylthio-2-methylbenzoate | 4.43 mmol, 1.20 g | ClC1=C(C(=C(C(=O)OC)C=C1)C)SCC1CC1 | C13H15ClO2S
solvent | methanol | 30 ml | CO | CH4O
product | 4-chloro-3-cyclopropylmethylthio-2-methylbenzoic acid | ClC1=C(C(=C(C(=O)O)C=C1)C)SCC1CC1 | C12H13ClO2S
